US07253154B2
Ethyl 4-nitrobenzoate (50.0 g, 256 mmol) and potassium cyanide (51.2 g, 786 mmol) were added to DMSO (380 mL), stirred at 100° C. for 4 hours, and cooled to room temperature. DMSO was distilled off, and to the residue was added ice-water (200 mL). The aqueous residue was washed with ethyl acetate (100 mL). To the mixture was added conc. hydrochloric acid, to change the pH of the mixture to 1. The mixture was then extracted with ethyl acetate (200 mL), washed with aqueous saturated brine (50 mL), dried over anhydrous sodium sulfate, and placed under reduced pressure to distill the solvent off. There was obtained 51.4 g of ethyl 3-cyano-4-hydroxybenzoate as a crude product.

reactant | Ethyl 4-nitrobenzoate | 256 mmol, 50.0 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC)C=C1 | C9H9NO4
reactant | potassium cyanide | 786 mmol, 51.2 g | [C-]#N.[K+]
reactant | DMSO | 380 mL | CS(=O)C | C2H6OS
product | ethyl 3-cyano-4-hydroxybenzoate | 51.4 g | C(#N)C=1C=C(C(=O)OCC)C=CC1O | C10H9NO3
